US04332809
4-Methyl-2-phenylpyridine nitrate prepared from 4-methyl-2-phenylpyridine (26.3 g) and 69% nitric acid (15 ml) is added under cooling to conc. sulfuric acid (95 ml), and the mixture is heated with agitation at 90°-100° C. for 30 minutes. After cooling, ice water (300 ml) is added to the reaction mixture, and the mixture is adjusted to pH 3.5 with conc. aqueous ammonia. The crystals precipitated from the hot solution are collected by filtration and recrystallized from ethanol to give 4-methyl-2-(4-nitrophenyl)pyridine (13.3 g). M.P. 145°-147° C.

reactant | 4-Methyl-2-phenylpyridine nitrate | [N+](=O)(O)[O-].CC1=CC(=NC=C1)C1=CC=CC=C1
reactant | 4-methyl-2-phenylpyridine | 26.3 g | CC1=CC(=NC=C1)C1=CC=CC=C1 | C12H11N
reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 95 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
product | 4-methyl-2-(4-nitrophenyl)pyridine | 13.3 g | CC1=CC(=NC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H10N2O2
